US07456164B2
N-methyl-2-(methylsulfonyl)-N-({4-[4-(3-morpholin-4-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)ethanamine
To a stirred solution of N-methyl-1-{4-[4-(3-morpholin-4-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanamine (230 mg, 0.66 mmol) in methanol (2 mL) was added methanesulfonyl-ethene (64 μL, 0.72 mmol) and the mixture stirred at room temperature for 18 hours. The mixture was concentrated in vacuo and triturated with diethyl ether to give the title compound as a white solid (274 mg, 91%). 1H NMR (400 MHz, CDCl3) δ 1.81 (m, 2H), 1.97 (m, 2H), 2.04 (s, 3H), 2.13 (m, 2H), 2.42-2.58 (m, 8H), 2.62 (t, 2H), 2.74 (s, 3H), 2.81 (t, 2H), 3.50 (m, 2H), 3.70-3.80 (m, 6H), 4.00 (t, 2H), 6.86 (d, 2H), 7.20 (d, 2H). HRMS ESI+ m/z 455.2570 [MH]+. Microanalysis: Found: C, 60.61; H, 8.47; N, 6.09%. C23H38N2O5S requires C, 60.76; H, 8.42; N, 6.16%.

reactant | N-methyl-1-{4-[4-(3-morpholin-4-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanamine | 0.66 mmol, 230 mg | CNCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCOCC1 | C20H32N2O3
reactant | methanesulfonyl-ethene | 0.72 mmol, 64 μL | CS(=O)(=O)C=C | C3H6O2S
solvent | methanol | 2 mL | CO | CH4O
product | N-methyl-2-(methylsulfonyl)-N-({4-[4-(3-morpholin-4-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)ethanamine | 274 mg, 91% | CN(CCS(=O)(=O)C)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCOCC1 | C23H38N2O5S
